Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Upper GI bleed
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o M with PMHx HTN, presented to ___ on ___ 
with shortness of breath. He had been feeling well for 
approximately 1 month prior to admission with chest congestion, 
cough, and progressively worsening dyspnea which was not 
improving with albuterol inhaler. He also developed bilateral LW 
swelling and a nonhealing wound on his left anterior shin. In 
the ED at ___, he was noted to have hypertensive 
urgency and was treated with IV labetolol.

During his admission at ___, he was treated for 
several issues including newly diagnosed heart failure, ___, and 
LLE cellulitis. 

Follow up ECHO showed decreased ejection fraction and echobright 
myocardium c/f infiltrative process with work up ongoing. Plan 
was for cardiac MRI as an outpatient. Upon further review, it 
appears patient had been havng progressive lower extremity 
swelling and was feeling poorly for about a month prior to 
admission to ___. 

Other issues during his admission at ___ included elevated 
Cr at 5 which was attributed initially to over diuresis that has 
been downtrending to 2.5 at time of transfer. His UA showed 
evidence of proteinuria and plan for renal biopsy as an 
outpatient. 

He also completed treatment for LLE cellulitis with ertapenem 
and clindamycin (c/f nec fasc at first). Cxs grew serratia and 
patient was narrowed to vanc/ctx.  Pt had a urethral stricture 
that was dilated and was treated with CTX x 5 days for ppx. 

Patient was doing fine until morning of transfer to ___, when 
he developed BRBPR (1.5L) and syncopized. He was subsequently 
transferred to ___ at ___. Pt had EGD which showed bleeding 
duodenal ulcers which were clipped (x8). Epi was injected. 
Patient continued to have ongoing melena. He had BRBPR and was 
hypotensive. He was intubated and on fentanyl/propofol and was 
transferred to ___ for further management as ___ had no open 
MICU beds. 

In total, he received a total of 10U pRBCs and 4U FFP with the 
11th unit of pRBC transfusing upon arrival to the MICU at ___. 
 He has been off of ASA. INR 1.8. He has 2 18 gauge IVs and a 
triple lumen non-power PICC. He was hypotensive to 80/50 and was 
started on levophed in ___. 

Most recent labs from ___ at signout: WBC: 20.4, Hgb 6 
(after 7 units), Plts: 270. Na 139, K 3.9, Cl 101, Bicarb 30, 
BUN 52, Cr 2.54, Calcium 8.4

LFTs: T protein 5.1, Albumin 1.8, AST 16, ALT 21, Tbili .7, 
direct .46, ALP 90, Mg. 2.1, Phos 4.9, Trop 0.225
 
On arrival to the MICU, patient was intubated and sedated. He 
was taken to ___ suite for embolization.

 
Past Medical History:
HTN
Varicocele surgery at age ___
 
Social History:
___
Family History:
Mother with gastric bypass surgery. 
 
Physical Exam:
GENERAL: Pale, intubated/sedated 
LUNGS: Clear to auscultation bilaterally anteriorly, no wheezes, 
rales, rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, mild distention, bowel sounds present
EXT: Warm, well perfused, dopplerable pulses, no clubbing, 2+ 
edema in lower extremities bilaterally. Lower left leg with 
dressing c/d/i

 
Pertinent Results:
___ 03:10AM BLOOD WBC-39.4* RBC-1.74* Hgb-5.2* Hct-15.2* 
MCV-87 MCH-29.9 MCHC-34.2 RDW-15.7* RDWSD-49.7* Plt Ct-83*
___ 03:10AM BLOOD ___ PTT-44.1* ___
___ 03:10AM BLOOD Glucose-285* UreaN-49* Creat-2.2* Na-136 
K-6.4* Cl-104 HCO3-24 AnGap-14
___ 03:10AM BLOOD CK-MB-1 cTropnT-0.10*
___ 03:10AM BLOOD Albumin-1.4* Calcium-6.5* Phos-5.5* 
Mg-1.8
 
Brief Hospital Course:
Mr. ___ was a ___ y/o M with PMHx HTN, not taking any 
medications, who presented to ___ on ___ with 
shortness of breath and ___ swelling. At ___ he was 
initially treated for hypertensive urgency, lower extremity 
cellulitis and was found to have new onset heart failure with 
reduced ejection fraction with concern for an infiltrative 
process from echo findings. On the AM before transfer, the 
patient had a reported BRBPR 1.5L in magnitude, and he proceeded
to syncopize. He was taken by GI for endoscopy and there were 
two actively bleeding duodenal ulcers that were clipped x8 and 
injected with epinephrine. He continued to have low hemoglobins 
and BRBPR, with Hgb as low as 4 throughout the day. Request to 
transfer for intervention was accepted. Prior to transfer, 
patient received 10 units pRBCs and was on his ___ on transfer. 
He was intubated and on one pressor (levophed) prior to arrival. 
He was admitted and stabilized by the MICU team on arrival and 
his systolics on levophed were stable in the 100s-110s. The ___ 
team met the patient in the MICU and quickly transferred him 
down to the angiography suite. On moving patient to the 
angiography table, he had an episode of third degree heart block 
and bradycardia which transitioned to asystole. He was given 
epinephrine and chest compressions were immediately initiated 
and pads were placed. A code blue was called and there was 
initially ROSC but after minutes the patient went into PEA 
arrest. Chest compressions were immediately initiated again with 
administration of several medications documented elsewhere. He 
was  alternately in PEA and v fib on rhythm checks amd was 
shocked when appropriate. ECHO during pulse checks did not show 
any contractility of the heart. Patient received 7 units of 
pRBCs and other volume resuscitation for continued low 
hemoglobin. After over 40 minutes of resuscitation, the decision 
was made to stop the code. The patient's time of death was 0450 
on ___. 

 
Discharge Medications:
NA
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Deceased
 
Discharge Condition:
Deceased
 
Discharge Instructions:
N/A. Deceased
 
Followup Instructions:
___